US09126993B2
1-azabicyclo[2.2.2]oct-3-yl {2-[4-fluoro-3-(pyridin-4-yl)phenyl]propan-2-yl}carbamate
Using general procedure E, 1-azabicyclo[2.2.2]oct-3-yl[2-(3-bromo-4-fluorophenyl)propan-2-yl]carbamate (130 mg, 0.291 mmol), pyridine-4-boronic acid (54 mg, 0.43 mmol) and tris(dibenzylideneacetone)dipalladium(0) gave the title compound as a white solid (46 mg, 41%). 1H NMR (400 MHz, CDCl3) δ 8.68 (dd, J=1.6, 4.5 Hz, 2H), 7.61-7.39 (m, 4H), 7.15 (dd, J=8.6, 10.2 Hz, 1H), 5.31 (s, 1H), 4.69-4.57 (m, 1H), 3.40-2.07 (m, 6H), 1.69 (d, J=10.8 Hz, 6H), 2.06-0.74 (m, 5H) ppm. 13C NMR (100 MHz, CDCl3) δ 160.0, 157.6, 143.3, 141.6, 141.5, 126.7, 126.6, 124.9, 124.8, 120.1, 119.9, 116.1, 115.9, 115.4, 115.1, 109.2, 71.4, 55.9, 55.0, 47.6, 46.7, 29.9, 25.6, 24.8, 19.8 ppm. Purity: 97% UPLCMS (210 nm); retention time 0.82 min; (M+1) 384.6.

reactant | 1-azabicyclo[2.2.2]oct-3-yl[2-(3-bromo-4-fluorophenyl)propan-2-yl]carbamate | 0.291 mmol, 130 mg | N12CC(C(CC1)CC2)OC(NC(C)(C)C2=CC(=C(C=C2)F)Br)=O | C17H22BrFN2O2
reactant | pyridine-4-boronic acid | 0.43 mmol, 54 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-azabicyclo[2.2.2]oct-3-yl {2-[4-fluoro-3-(pyridin-4-yl)phenyl]propan-2-yl}carbamate | 46 mg, 41% | FC1=C(C=C(C=C1)C(C)(C)NC(OC1CN2CCC1CC2)=O)C2=CC=NC=C2 | C22H26FN3O2
